US07320986B2
2-(4-bromobenzoyl)-1H-indene-1,3 (2H)-dione
Methanol (8.5 ml) was treated with sodium (4.8 g) in benzene (90 mL). The reaction mixture was refluxed overnight, allowed to cool to room temperature, and treated with phthalic acid dimethyl ester (38.84 g) and 1-(4-bromophenyl)ethanone (39.81 g) in benzene (50 mL). Distillation of the reaction mixture was performed at 80° C. overnight to remove methanol. The reaction mixture was poured into diluted HCl and filtered. The filter cake was collected and recrystallized from ethanol to provide the title compound.

reactant | Methanol | 8.5 ml | CO | CH4O
reactant | sodium | 4.8 g | [Na] | Na
reactant | phthalic acid dimethyl ester | 38.84 g | COC(C=1C(C(=O)OC)=CC=CC1)=O | C10H10O4
reactant | 1-(4-bromophenyl)ethanone | 39.81 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
solvent | benzene | 90 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-(4-bromobenzoyl)-1H-indene-1,3 (2H)-dione | BrC1=CC=C(C(=O)C2C(C3=CC=CC=C3C2=O)=O)C=C1 | C16H9BrO3
